US07592358B2
50.1b. 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethyl methanesulfonate
0.06 mL (0.75 mmol) of methanesulfonic acid chloride was added dropwise at 0° C. to a solution of 167 mg (0.50 mmol) of 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethanol and 0.08 mL (1.00 mmol) of pyridine in 5 mL of DCM and the mixture was then stirred for I hour at 0° C. It was combined again with pyridine (0.08 mL) and methanesulfonic acid chloride (0.06 mL) and stirred for 1 hour at RT. Then it was combined with 0.14 mL (1.00 mmol) of triethylamine and after 20 minutes at RT diluted with ice water. The organic phase was separated off, dried over magnesium sulfate, filtered, and the solvent was eliminated in vacuo. Yield: 185 mg (90% of theoretical); C22H18ClNO3S (M=411.902); calc.: molpeak (M+H)+:412/414 (Cl); found: molpeak (M+H)+:412/414 (Cl); HPLC-MS: 6.27 minutes (method H).

reactant | methanesulfonic acid chloride | 0.75 mmol, 0.06 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethanol | 0.50 mmol, 167 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)CCO | C21H16ClNO
reactant | pyridine | 1.00 mmol, 0.08 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 0.08 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic acid chloride | 0.06 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.00 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C22H18ClNO3S
